US09034850B2
Step B. {(R)-2-[3-(2,6-difluoro-benzyl)-2,6-dioxo-5-(2-oxo-pyrrolidin-1-yl)-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester
{(R)-2-[5-(4-chloro-butyrylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester (30 mg, 0.052 mmol) and potassium carbonate (30 mg, 0.217 mmol) were dissolved at room temperature for 6 hrs in DMF (1 mL) with stirring. The solution was diluted with dichloromethane and washed with water to separate an organic layer. After concentration of the organic layer, the residue was purified using silica gel chromatography (eluent: dichloromethane/methanol, 30/1) and dried in a vacuum to afford 25 mg of the compound as a colorless oil (yield 90%). 1H NMR (300 MHz, CDCl3) δ 1.34 (9H, s), 2.15 (2H, p), 2.51 (2H, t), 3.80 (2H, m), 4.03 (1H, m), 4.27 (1H, m), 4.98-5.13 (3H, m), 5.57 (1H, d), 6.97 (2H, m), 7.22-7.40 (6H, m), 7.62 (1H, s)

reactant | {(R)-2-[5-(4-chloro-butyrylamino)-3-(2,6-difluoro-benzyl)-2,6-dioxo-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.052 mmol, 30 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)NC(CCCCl)=O)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C28H31ClF2N4O5
reactant | potassium carbonate | 0.217 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | {(R)-2-[3-(2,6-difluoro-benzyl)-2,6-dioxo-5-(2-oxo-pyrrolidin-1-yl)-3,6-dihydro-2H-pyrimidin-1-yl]-1-phenyl-ethyl}-carbamic acid tert-butyl ester | 25 mg, yield 90% | C(C)(C)(C)OC(N[C@@H](CN1C(N(C=C(C1=O)N1C(CCC1)=O)CC1=C(C=CC=C1F)F)=O)C1=CC=CC=C1)=O | C28H30F2N4O5
